US05292351
Preparation of p-(n-octyloxy)benzoylurea
A 500 ml 3-neck round bottom flask containing a magnetic stirrer, thermometer, and a reflux condensor with a gas egress tube for a nitrogen blanket is charged with a one part apiece of p-(n-octyloxy)benzoic acid and urea dissolved in 15 parts N-methylpyrrolidone containing 0.01wt percent triphenylphosphite. The mixture is heated to 120 deg C. for approximately 2-5 hours and then cooled. The addition of a copious amount of 3M aqueous sodium hydroxide to a cooled solution precipitates the product, which is isolated by filtration. Infrared absorbance at 3250 cm-1 (urea N--H stretching) and at 1705 cm-1 and 1640 cm-1 (amide and urea C=O stretching, respectively) in addition to the conspicuous absence of any absorbance at 3490 cm-1 (acid O--H stretching) confirm the chemical transformation.

reactant | p-(n-octyloxy)benzoic acid | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | urea | NC(=O)N | CH4N2O
reactant | sodium hydroxide | 3M | [OH-].[Na+]
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | triphenylphosphite | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
product | p-(n-octyloxy)benzoylurea | C(CCCCCCC)OC1=CC=C(C(=O)NC(=O)N)C=C1 | C16H24N2O3
